US04748240
1,3-Cyclopentane dicarboxylic acid (8.0 g., 51 mmole) was converted to the anhydride by refluxing for 3 hours in 100 ml. of acetic anhydride. The excess solvent was removed under vacuum and the residue was stored in vacuum for 18 hours. The crude anhydride thus obtained was combined with 14 g. (50 mmole) of 1-(4-aminobutyl)-4-benzylpiperazine hydrochloride and 5.0 g. (50 mmole) of triethylamine in 500 ml. of xylene. The mixture was refluxed for 48 hours with water separation via a Dean-Stark trap. The product was concentrated under vacuum and chromatographed on 200 g. of silica gel with 2% ethanol/chloroform. The product was crystallized from ethanol by addition of 4N HCl/isopropyl alcohol to obtain cyclopentane-1,3-dicarboxylic-N-[4-(4-benzyl-1-piperazinyl)butyl]imide dihydrochloride; m.p. 273°-275° C.

reactant | 1,3-Cyclopentane dicarboxylic acid | 51 mmole, 8.0 g | C1(CC(CC1)C(=O)O)C(=O)O | C7H10O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-aminobutyl)-4-benzylpiperazine hydrochloride | 50 mmole | Cl.NCCCCN1CCN(CC1)CC1=CC=CC=C1
reactant | triethylamine | 50 mmole | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | cyclopentane-1,3-dicarboxylic-N-[4-(4-benzyl-1-piperazinyl)butyl]imide dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCCN=C(O)C1CC(CC1)C(=O)O | InChI=1S/C22H33N3O3.2ClH/c26-21(19-8-9-20(16-19)22(27)28)23-10-4-5-11-24-12-14-25(15-13-24)17-18-6-2-1-3-7-18;;/h1-3,6-7,19-20H,4-5,8-17H2,(H,23,26)(H,27,28);2*1H
